US08557992B2
To a solution of 2-oxo-1,2-dihydropyridine-4-carbaldehyde (1.72 g, 11.3 mmol) in 25 mL of acetonitrile was added sodium chlorodifluoroacetate (0.925 g, 7.51 mmol). The reaction was heated to reflux under an atmosphere of nitrogen for 15 h, and then DMF (3 mL) was added. The mixture was heated to 100° C. for 3 d, cooled to rt, and diluted with ethyl acetate. The organic solution was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to provide 3-(difluoromethoxy)benzaldehyde.

reactant | 2-oxo-1,2-dihydropyridine-4-carbaldehyde | 11.3 mmol, 1.72 g | O=C1NC=CC(=C1)C=O | C6H5NO2
reactant | sodium chlorodifluoroacetate | 7.51 mmol, 0.925 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(difluoromethoxy)benzaldehyde | FC(OC=1C=C(C=O)C=CC1)F | C8H6F2O2
